US04183856
Using 3-amino-5-t-butylisoxazole and N-allyl-N-methylcarbamoyl chloride, the reaction is effected as in Example 1, whereby 1-allyl-1-methyl-3-(5-t-butyl-3-isoxazolyl)urea is obtained. Yield is 90.5%. Melting point is 90.0° to 91.0° C.

reactant | 3-amino-5-t-butylisoxazole | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | N-allyl-N-methylcarbamoyl chloride | C(C=C)N(C(=O)Cl)C | C5H8ClNO
product | 1-allyl-1-methyl-3-(5-t-butyl-3-isoxazolyl)urea | Yield is 90.5% | C(C=C)N(C(=O)NC1=NOC(=C1)C(C)(C)C)C | C12H19N3O2
